US06858651B2
A solution of 280 mg (0.5 mmol) of trans-4-Trifluoromethyl-benzenesulfonic acid 4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexylmethyl ester and 78 mg (0.55 mmol) of 2-dimethylaminoethanethiol hydrochloride in 4.5 ml DMF was treated at 0° C. with 48 mg (1.1 mmol) of 55% NaH, stirred for 20 h at RT. After cooling (0° C.) and treatment with a catalytic amount of NaI followed by 78 mg (0.55 mmol) of 2-dimethylaminoethanethiol hydrochloride and 48 mg (1.1 mmol) of 55% NaH the reaction mixture was stirred for 18 h at RT. The reaction was neutralized (aqueous 10% KHSO4, at 0° C.) and poured into aqueous sat. NaHCO3/Et2O (3×). The organic phases were washed with aqueous 10% NaCl solution, dried over Na2SO4 and evaporated. Purification by flash column chromatography on silica gel with CH2Cl2/MeOH (95:5) yielded 138 mg (63%) of trans-N-[4-(2-Dimethylamino-ethylsulfanylmethyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 439 (MH+).

reactant | trans-4-Trifluoromethyl-benzenesulfonic acid 4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexylmethyl ester | 0.5 mmol, 280 mg | CN([C@@H]1CC[C@H](CC1)COS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C22H23F6NO5S2
reactant | 2-dimethylaminoethanethiol hydrochloride | 0.55 mmol, 78 mg | Cl.CN(CCS)C
reactant | NaH | 1.1 mmol, 48 mg | [H-].[Na+]
reactant | NaI | [Na+].[I-]
reactant | 2-dimethylaminoethanethiol hydrochloride | 0.55 mmol, 78 mg | Cl.CN(CCS)C
reactant | NaH | 1.1 mmol, 48 mg | [H-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | NaHCO3 Et2O | C(=O)(O)[O-].[Na+].CCOCC
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
product | trans-N-[4-(2-Dimethylamino-ethylsulfanylmethyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 138 mg, 63% | CN(CCSC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C19H29F3N2O2S2
